US04562186
Isopropyl[3-(4-methoxybenzoyl)-1,2,4-oxadiazol-5-yl]acetate
A mixture of [3-(4-methoxybenzoyl)-1,2,4-oxadiazol-5-yl]acetonitrile (39 g) in dry isopropanol (1 liter) was saturated with HCl gas. The resulting solution was refluxed for 5 hours, cooled, and poured into cold water (2 liters) with stirring. The aqueous mixture was extracted with Et2O (3×800 ml). The organics were washed with water (4×1 liter) until neutral and saturated NaCl, dried over Na2SO4, and concentrated in vacuo to give 59 g of an oil. The ester crystallized on standing and the supernatant oil was decanted away. The crystals (40 g) were purified by high pressure liquid chromatography (1.5% ethyl acetate/CH2Cl2) to yield 36 g (73%) of an oil which crystallized, m.p. 63°-64°.

reactant | [3-(4-methoxybenzoyl)-1,2,4-oxadiazol-5-yl]acetonitrile | 39 g | COC1=CC=C(C(=O)C2=NOC(=N2)CC#N)C=C1 | C12H9N3O3
reactant | HCl | Cl | ClH
reactant | water | 2 liters | O | H2O
reactant | isopropanol | 1 liter | C(C)(C)O | C3H8O
product | Isopropyl[3-(4-methoxybenzoyl)-1,2,4-oxadiazol-5-yl]acetate | 59 g | C(C)(C)OC(CC1=NC(=NO1)C(C1=CC=C(C=C1)OC)=O)=O | C15H16N2O5
